US06906084B2
(iii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,5-dicarboxylic acid 5-isopropyl ester.
To a solution of 6.21 g 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,5-dicarboxylic acid 2-ethyl ester 5-isopropyl ester in 100 ml THF and 40 ml MeOH 52 ml of an aqueous 1 M LiOH solution were added and stirred for 2 h. The organic solvents were removed under reduced pressure and the residue acidified with 2 M hydrochloric acid to pH 2. The precipitated product was collected by filtration and dried over P2O5 in vacuo to yield a white solid. Yield: 5.77 g.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,5-dicarboxylic acid 2-ethyl ester 5-isopropyl ester | 6.21 g | C(C)(C)OC(=O)C=1C=C2C=C(N(C2=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)OCC | C23H21ClN2O5S
reactant | LiOH | 1 M | [Li+].[OH-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MeOH | 40 ml | CO | CH4O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,5-dicarboxylic acid 5-isopropyl ester | C(C)(C)OC(=O)C=1C=C2C=C(N(C2=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)O | C21H17ClN2O5S
